### PR TITLE
[Merged by Bors] - feat(Chebyshev/RootsExtrema): Irrationality of roots of Chebyshev T (other than zero)

### PR DESCRIPTION
**Pull request by YuvalFilmus**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/Niven.lean [hunk 1]
```diff
@@ -160,3 +160,18 @@ theorem niven_angle_eq (hθ : ∃ r : ℚ, θ = r * π) (hcos : ∃ q : ℚ, cos
...
+  replace h_bnd : r * π ∈ Set.Icc 0 π := by
+    obtain ⟨h_lb, h_ub⟩ := Set.mem_Icc.mp h_bnd
+    refine Set.mem_Icc.mpr ⟨by positivity, by grw [h_ub]; simp⟩
+  have hinj : Function.Injective (fun (r : ℚ) => r * π) := smul_left_injective ℚ pi_ne_zero
+  rcases niven_angle_eq ⟨r, rfl⟩ hcos h_bnd with h | h | h | h | h
+  · simp [show r = 0 by apply hinj; dsimp; rw [h]; ring]
+  · simp [show r = 1 / 3 by apply hinj; dsimp; rw [h]; ring]
+  · simp [show r = 1 / 2 by apply hinj; dsimp; rw [h]; ring]
+  · simp [show r = 2 / 3 by apply hinj; dsimp; rw [h]; ring]
+  · simp [show r = 1 by apply hinj; dsimp; rw [h]; ring]
```
Comment (j-loreaux) [inline Mathlib/NumberTheory/Niven.lean]:
```suggestion
  apply smul_left_injective ℚ pi_ne_zero |>.mem_set_image.mp
  replace h_bnd : (r : ℝ) * π ∈ Set.Icc (0 * π) (1 * π) := by
    obtain ⟨hr, hr'⟩ := h_bnd; constructor <;> gcongr <;> norm_cast
  generalize h : (r : ℝ) * π = θ at *
  have := niven_angle_eq ⟨r, h.symm⟩ hcos (by simpa using h_bnd)
  simp_all [Rat.smul_def]
  grind
```

File: Mathlib/NumberTheory/Niven.lean [hunk 2]
```diff
@@ -160,3 +160,18 @@ theorem niven_angle_eq (hθ : ∃ r : ℚ, θ = r * π) (hcos : ∃ q : ℚ, cos
     have h₂ := cos_pi_div_three;
     have h₂ := cos_zero] <;>
   simp [injOn_cos h_bnd ⟨by positivity, by linarith [pi_nonneg]⟩ (h₂ ▸ h)]
+
+theorem niven_rat_eq {r : ℚ} (hcos : ∃ q : ℚ, cos (r * π) = q)
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Niven.lean]: I don't get this name.

Comment (YuvalFilmus) [reply Mathlib/NumberTheory/Niven.lean]: Changed to `niven_angle_div_pi_eq`, which is also not such a good name.
All theorems in this file have names which do not really conform to the naming conventions.

File: Mathlib/NumberTheory/Real/Irrational.lean [hunk 3]
```diff
@@ -41,6 +41,9 @@ theorem irrational_iff_ne_rational (x : ℝ) : Irrational x ↔ ∀ a b : ℤ, b
 theorem Irrational.ne_rational {x : ℝ} (hx : Irrational x) (a b : ℤ) : x ≠ a / b := by
   rintro rfl; exact hx ⟨a / b, by simp⟩
 
+theorem exists_rational_of_not_irrational {x : ℝ} (hx : ¬ Irrational x) : ∃ (q : ℚ), x = q := by
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Real/Irrational.lean]:
```suggestion
theorem exists_rat_of_not_irrational {x : ℝ} (hx : ¬ Irrational x) : ∃ (q : ℚ), x = q := by
```

File: Mathlib/NumberTheory/Niven.lean [hunk 4]
```diff
@@ -160,3 +160,13 @@ theorem niven_angle_eq (hθ : ∃ r : ℚ, θ = r * π) (hcos : ∃ q : ℚ, cos
     have h₂ := cos_pi_div_three;
     have h₂ := cos_zero] <;>
   simp [injOn_cos h_bnd ⟨by positivity, by linarith [pi_nonneg]⟩ (h₂ ▸ h)]
+
+theorem niven_angle_div_pi_eq {r : ℚ} (hcos : ∃ q : ℚ, cos (r * π) = q)
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Niven.lean:165]: What do you think of adding
```
theorem niven_angle_div_pi_eq' {r : ℚ} (hcos : ∃ q : ℚ, cos (r * π) = q) :
    r - r.floor ∈ ({0, 1 / 3, 1 / 2, 2 / 3} : Set ℚ) := by
  have aux := niven_angle_div_pi_eq (r := r - r.floor) ?hcos ?hbnd
  · suffices r - r.floor ≠ 1 by grind
    grind [r.lt_floor_add_one]
  · simp only [Rat.cast_sub, Rat.cast_intCast, sub_mul, cos_sub_int_mul_pi]
    obtain ⟨q, hq⟩ := hcos
    use (-1)^r.floor * q
    simp_all
  · grind [r.lt_floor_add_one, r.floor_le]
```

I have not optimized the name or the proof.
And potentially the contrapositive. That would be similar to

https://github.com/leanprover-community/mathlib4/pull/34072/changes#diff-6680f434cf51dfbf37e2e3d710dfa8e8257d5fd241897cbb231e717413b59da0R165

Comment (YuvalFilmus) [reply Mathlib/NumberTheory/Niven.lean:165]: Added this (under a slightly different name and with a shorter proof), as well as a converse in terms of the denominator of the rational involved.

File: Mathlib/NumberTheory/Niven.lean [hunk 5]
```diff
@@ -160,3 +161,29 @@ theorem niven_angle_eq (hθ : ∃ r : ℚ, θ = r * π) (hcos : ∃ q : ℚ, cos
...
+
+theorem niven_fract_angle_div_pi_eq {r : ℚ} (hcos : ∃ q : ℚ, cos (r * π) = q) :
+    Int.fract r ∈ ({0, 1 / 3, 1 / 2, 2 / 3} : Set ℚ) := by
+  suffices Int.fract r ∈ ({0, 1 / 3, 1 / 2, 2 / 3, 1} : Set ℚ) by
+    grind [ne_of_lt (Int.fract_lt_one r)]
+  refine niven_angle_div_pi_eq (r := Int.fract r) ?_ (by simp [le_of_lt <| Int.fract_lt_one r])
+  obtain ⟨q, hq⟩ := hcos
+  exact ⟨(-1) ^ ⌊r⌋ * q, by rw [Int.fract]; push_cast; rw [sub_mul, cos_sub_int_mul_pi, hq]⟩
+
+theorem irrational_cos_rat_mul_pi {r : ℚ} (hr₁ : r.den ≠ 1) (hr₂ : r.den ≠ 2) (hr₃ : Even r.den) :
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Niven.lean]: Now this lemma does not apply to `1/5`, right? Can't you do
```suggestion
theorem irrational_cos_rat_mul_pi {r : ℚ} (hr₁ : r.den ≠ 1) (hr₂ : r.den ≠ 2) (hr₃ : r.den ≠ 3) :
```
And then in fact, all of these could be summarized as `3 < r.den`, I guess.

File: Mathlib/NumberTheory/Niven.lean (hunk 4 above)
Comment (jcommelin) [reply Mathlib/NumberTheory/Niven.lean:165]: Thanks

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
